US04788206
The compound was prepared according to the procedure described in Example 84 except that the reaction was worked up after 30 hours. The following reagents were used: 3,3-dimethoxybenzophenone (48.5 g), diisopropylamine (64.4 mL), 1.55M n-butyl lithium in hexane (286 mL), acetaldehyde N-tertbutylimine (29.5 mL), diethyl chlorophosphonate (33.2 mL) and tetrahydrofurane (400 mL). The work up, varied only in that the oxalic acid catalyzed hydrolysis was done at 85° C. over two hours, furnished 53 g of essentially pure 3,3-bis(3-methoxyphenyl)-2-propenal as a pale yellow oil.

reactant | 3,3-dimethoxybenzophenone | 48.5 g | COC1(CC(C(=O)C2=CC=CC=C2)=CC=C1)OC | C15H16O3
reactant | diisopropylamine | 64.4 mL | C(C)(C)NC(C)C | C6H15N
reactant | n-butyl lithium | 1.55M | C(CCC)[Li]
reactant | oxalic acid | C(C(=O)O)(=O)O | C2H2O4
reactant | diethyl chlorophosphonate | 33.2 mL | ClP(OCC)(OCC)=O | C4H10ClO3P
solvent | hexane | 286 mL | CCCCCC | C6H14
solvent | acetaldehyde N-tertbutylimine | 29.5 mL | C(C)(C)(C)N=CC | C6H13N
solvent | tetrahydrofurane | 400 mL | O1CCCC1 | C4H8O
product | 3,3-bis(3-methoxyphenyl)-2-propenal | COC=1C=C(C=CC1)C(=CC=O)C1=CC(=CC=C1)OC | C17H16O3
